US07977351B2
2-{3-[(2-Hydroxy-ethyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde (76 mg, 0.4 mmol) and 2-(methylamino)ethanol (32 μL, 0.4 mmol) are reacted to provide the title compound as an oil (61 mg, 61%).

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | 0.4 mmol, 76 mg | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | 2-(methylamino)ethanol | 0.4 mmol, 32 μL | CNCCO | C3H9NO
product | 2-{3-[(2-Hydroxy-ethyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one | 61 mg, 61% | OCCN(CCCC1=CC=C2C(=N1)COC2=O)C | C13H18N2O3
